US06159971
(R)-N-[5-Bromo-8-(4-tert-butyloxycarbonylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide
4-Morpholinobenzoic acid (0.50 g, 2.4 mmol; described in: Degutis, J.; Rasteikiene, L.; Degutiene, A. Zh. Org. Khim. 1978, 14(10), 2060-2064) was dissolved in thionyl chloride (10 mL). After 2 min, the thionyl chloride was evaporated in vacuo and the residue was treated with toluene and again the solvent was evaporated in vacuo. Crude acid chloride (81 mg, 0.36 mmol) was dissolved in methylene chloride (10 mL) and added dropwise to a solution of tert-butyl (R)-4-(7-amino-4-bromo-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate (140 mg, 0.34 mmol) and triethylamine (71 μL, 0.51 mmol) in methylene chloride (10 mL). After the addition, the reaction was stirred at ambient temperature for 15 min and was then washed with a diluted aqueous solution of sodium hydrogen carbonate and the phases were separated. The organic phase was dried (Na2SO4), filtered and evaporated in vacuo and the residue was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:2) as the eluent. Yield: 160 mg (79%) of a viscous colorless oil: [α]21D -11° (c=1, chloroform); TSPMS m/z (relative intensity) 599 and 601 (35, M+ +1).

reactant | 4-Morpholinobenzoic acid | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | tert-butyl (R)-4-(7-amino-4-bromo-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate | 0.34 mmol, 140 mg | N[C@@H]1CCC=2C(=CC=C(C2C1)N1CCN(CC1)C(=O)OC(C)(C)C)Br | C19H28BrN3O2
reactant | triethylamine | 0.51 mmol, 71 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[5-Bromo-8-(4-tert-butyloxycarbonylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | BrC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C30H39BrN4O4
